Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Questran
 
Attending: ___.
 
Chief Complaint:
PCP:  ___ in ___ 

Time patient seen/examined 01:15 ___
CC: diarrhea

 
Major ___ or Invasive Procedure:
None

 
History of Present Illness:
HPI:  Ms. ___ is a ___ y/o female with medical 
history significant for breast cancer s/p lumpectomy and 
radiation, hypertension, goiter, depression, diverticulitis s/p 
partial colon resection who presents due to new chronic 
diarrhea.  She has had diarrhea since ___ which she 
describes as high volume, watery, ___ bowel movements daily 
without cramping or abdominal pain.  She has just returned from 
___ where she presented to an OSH with weakness and 
lightheadedness, having sustained a fall onto her knees, and was 
hospitalized for a week as they worked up her diarrhea.  She 
underwent EGD and colonoscopy as well as some stool studies.  
Infectious workup including 2 separate C. diff studies was 
unremarkable but she was empirically put on metronidazole 500 mg 
TID on ___ due to report from colonoscopy that found white 
plaques consistent with pseudomembranous colitis.  Pathology of 
biopsies from the colon was significant for  mild non-specific 
acute colitis, cryptitis, mild crypt distortion, and paneth cell 
metaplasia.  The GI doctor at ___ in ___ had planned to 
repeat colonoscopy on ___ but the patient decided that she 
wanted to seek further workup closer to home and thus was 
discharged from the OSH today and flew home to ___, coming 
straight to ___ from the airport.

The patient's bowel movements often occur immediately after 
eating.  The wake her up at night.  She has not noticed any 
blood in the stool and has not seen undigested food.  She has 
had no significant nausea and no vomiting and has not lost 
significant amount of weight.  She states she weighed 170 lb 
before ___ and today's bedweight is 166 lb.  Her appetite 
has been poor for the past ___ weeks and she forces herself to 
eat.  She denies increased sweating, no night sweats, fevers or 
chills, no palpitations, no increase in level of anxiety, no 
flushing.  She states that until the past few weeks she has 
never had fecal incontinence (although this is reported 
otherwise elsewhere).  She has full sensation that she is about 
to have a bowel movement but sometimes in the past few weeks, 
the urgency is such that she does not make it to the toilet in 
time.  

She did fall in the shower over 1 week ago which is what 
prompted her to go to the OSH ED in ___.  She hurt her left 
knee and her right foot.  She states that xrays were done on the 
knee and the foot and that there were no fractures.  She feels 
that the right foot and ankle is still slightly more swollen 
than the other.  She also developed a rash on her back while in 
the hospital in ___.  It is not pruritic.

In the ED, Vitals were initiallyl T 98.4, HR 90, BP 183/81, RR 
19, SpO2 100% RA.  Basic labs did not reveal any gross 
abnormalities.  Urinalysis and culture were run.  She received 
dicyclomine 20 mg and loperamide 4 mg.  

 
Past Medical History:
Medical history:
- hypertension
- breast cancer, R, infiltrating ductal carcinoma s/p lumpectomy 
and radiation ___
- goiter
- depression
- anxiety
- GERD
- rotator cuff tendonitis, L
- cervical spondylosis with radiculopathy, L

Surgical history:
- lumpectomy R breast and radiation ___
- diverticulitis s/p partial colectomy, ~ ___
- cholecystectomy-- ___
- appendectomy- ___
 
Social History:
___
Family History:
Family history:
- Father died of lung cancer in his ___
- brother died of brain cancer at ___
- brother died of COPD in his ___
- mother had HTN, CVA, died at ___
- one brother has CAD, s/p CABG
- has 8 additional overall healthy siblings (total of 11 
siblings)
- daughter diagnosed with kidney cancer at age ___, still living
- son diagnosed with liver cancer at age ___, still living
- one healthy son age ___

 
Physical Exam:
Tc 98.0 BP 156/54 HR 86 RR 17 O2 98% RA 
GEN: Alert, comfortable, NAD
EYE:  EOMI, PERRL, no conjuctival pallor or irritation. 
ENT:  MMM, no oral lesions
Neck: no LAD, no nuchal rigidity, JVP WNL
CV:  RRR, no M/R/G.  DP pulses 2+ b/l. 
RESP: CTAB, no wheezes or crackles
GI: Soft, nontender, nondistended, no hepatosplenomegaly
appreciated, active bowel sounds
EXT: No cyanosis, clubbing.  LLE slightly larger than right.
SKIN:  maculopapular rash diffusely over entire back.  No skin
breakdown, no weeping, no discharge.
NEURO:  A+OX3, CN ___ in tact. Fluent Speech, Normal
concentration
PSYCH: Calm and Appropriate

 
Pertinent Results:
___ 09:22PM BLOOD WBC-4.0 RBC-3.60* Hgb-10.9* Hct-32.5* 
MCV-90 MCH-30.3 MCHC-33.5 RDW-14.0 RDWSD-46.1 Plt ___
___ 07:29AM BLOOD WBC-3.3* RBC-3.51* Hgb-10.7* Hct-31.5* 
MCV-90 MCH-30.5 MCHC-34.0 RDW-14.2 RDWSD-46.2 Plt ___
___ 07:29AM BLOOD ___ PTT-30.4 ___
___ 07:29AM BLOOD Glucose-85 UreaN-9 Creat-0.6 Na-142 K-3.4 
Cl-110* HCO3-24 AnGap-11
___ 07:29AM BLOOD ALT-16 AST-14 AlkPhos-51 TotBili-0.2
___ 07:29AM BLOOD Calcium-9.4 Phos-3.2 Mg-1.8 Iron-34
___ 07:29AM BLOOD calTIBC-148* Ferritn-287* TRF-114*
___ 07:29AM BLOOD RedHold-HOLD

   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      . 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      . 
      MANY POLYMORPHONUCLEAR LEUKOCYTES. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Pending): 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Pending): 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

FINDINGS:  
  
There is normal compressibility, flow, and augmentation of the 
left common 
femoral, femoral, and popliteal veins. Normal color flow and 
compressibility 
are demonstrated in the posterior tibial and peroneal veins. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
No evidence of medial popliteal fossa (___) cyst. 
  
IMPRESSION:  
  
No evidence of deep venous thrombosis in the left lower 
extremity veins 

 
Brief Hospital Course:
ASSESSEMENT AND PLAN:
Ms. ___ is a ___ y/o female with medical history significant 
for  breast cancer, diverticulitis s/p partial colectomy 
presenting with new chronic diarrhea since ___.

Problem list and plan:
1.  Chronic diarrhea:  painless, watery, nonbloody, closely 
connected to ingestion of food or water.  
Patient had dramatic improvement in symptoms while hospitalized. 
 Had normal formed bm prior to discharge.  Did NOT use Imodium.  
Symptoms concerning for antibiotic associated diarrhea.  
Encouraged consumption of yogurt.  Our Stool cx negative thus 
far, as was C diff testing, so flagyl stopped.  Infectious w/u 
in ___ also negative.  
2.  Rash:  looks like heat rash likely from lying in hospital 
bed for a week.
but patient thinks it was related to her questran.  Listed as 
allergy.
3.  LLE swelling:  ___ negative for DVT.
4.  Hypertension:  continue home lisinopril
5.  history of breast cancer:  continue home anastrozole
6.  depression:  continue home citalopram
7.    GERD:  continue home omeprazole.  
8.  Mild anemia seen on labs - likely due to phlebotomy and IVF. 
 Stable.  Also, mild leukopenia noted.  She should get CBC done 
as outpatient.

Patient uncertain as to whether she will f/u with ___ area or 
___ physicians.  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diarrhea, ? antibiotic associated

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with diarrhea and this improved on its' own 
without treatment in the hospital.  It is possible that your 
symptoms were from antibiotic associated diarrhea.  Please 
consume yogurt ___ times a day to build up "healthy" bacteria in 
your gut.  
 
Followup Instructions:
___